US05827868
B. (E)-4-(Benzyloxy)-2-butenyl acetate
TLC: Rf =0.52, silica gel, 20% ethyl acetate in hexane, UV & cerium disulfate.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cerium disulfate | S(=O)(=O)([O-])OS(=O)(=O)[O-].[Ce+3].S(=O)(=O)([O-])OS(=O)(=O)[O-].S(=O)(=O)([O-])OS(=O)(=O)[O-].[Ce+3]
reactant | hexane | CCCCCC | C6H14
product | (E)-4-(Benzyloxy)-2-butenyl acetate | C(C)(=O)OC\C=C\COCC1=CC=CC=C1 | C13H16O3
